US07326447B2
11.7 g (25.6 mmol) of 3-butoxy-4,7-difluoro-8-(4-pentylcyclohexyl)-benzo[c]chromen-6-one and 11.4 g (28.2 mmol) of Lawesson's reagent were refluxed for 16 hours in 130 ml of chlorobenzene. The solution was subsequently filtered through silica gel and evaporated, and the crude product was purified by crystallisation from MTB ether, giving 7.9 g (65%) of 3-butoxy-4,7-difluoro-8-(4-pentylcyclohexyl)benzo[c]chromene-6-thione as yellow crystals.

reactant | 3-butoxy-4,7-difluoro-8-(4-pentylcyclohexyl)-benzo[c]chromen-6-one | 25.6 mmol, 11.7 g | C(CCC)OC1=CC=C2C3=C(C(OC2=C1F)=O)C(=C(C=C3)C3CCC(CC3)CCCCC)F | C28H34F2O3
reactant | Lawesson's reagent | 28.2 mmol, 11.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | chlorobenzene | 130 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-butoxy-4,7-difluoro-8-(4-pentylcyclohexyl)benzo[c]chromene-6-thione | 7.9 g, 65% | C(CCC)OC1=CC=C2C3=C(C(OC2=C1F)=S)C(=C(C=C3)C3CCC(CC3)CCCCC)F | C28H34F2O2S
